US08835420B2
Preparation x34: (S)-1-(6-(3-Methoxyazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine
To a microwave vial containing 3-methoxyazetidine hydrochloride (500 mg, 4.05 mmol) were added KOt-Bu (1339 mg, 11.93 mmol) and DME (8 mL) under an atmosphere of nitrogen. The mixture was heated to 90° C. in a sand bath. A solution of (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (461 mg, 1.82 mmol) in DME (8 mL) was added dropwise to the hot suspension. The mixture was stirred at 90° C. overnight. Additional KOt-Bu (1956 mg, 17.43 mmol) was added and the mixture was heated to 90° C. for 90 minutes. The reaction mixture was subsequently concentrated in vacuo. The residue was dispersed in DMSO/MeOH (1:1, 10 mL), filtered, and purified by preparative HPLC eluting with 15-40% ACN in water (with 0.035% NH4HCO3). The fractions containing the desired product were combined and concentrated in vacuo to give the title compound as an off-white solid (469 mg, 99%). ESI-MS m/z [M+H]+ calc'd for C14H20N4O, 261; found 261.

reactant | 3-methoxyazetidine hydrochloride | 4.05 mmol, 500 mg | Cl.COC1CNC1
reactant | KOt-Bu | 11.93 mmol, 1339 mg | CC(C)(C)[O-].[K+]
reactant | (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 1.82 mmol, 461 mg | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | KOt-Bu | 17.43 mmol, 1956 mg | CC(C)(C)[O-].[K+]
solvent | DME | 8 mL | COCCOC | C4H10O2
solvent | DME | 8 mL | COCCOC | C4H10O2
product | (S)-1-(6-(3-Methoxyazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 469 mg, 99% | COC1CN(C1)C=1C=C2C(=NC1[C@H](C)N)C=CN2C | C14H20N4O
